### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Projection/Submodule): add `sup_orthogonal` for `ClosedSubmodules`

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
prove that the closed submodule generated by the orthogonal complements of two submodules is the orthogonal complement of the intersection.

motivation: needed to define standard subspaces in a Hilbert space #29251
https://ems.press/content/serial-article-files/48171

- [x] depends on: #29230 for `Lattice` `CompleteLattice`
- [x] depends on: #29241 for the definition of `orthogonal`

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Projection/Submodule.lean [hunk 1]
```diff
@@ -239,3 +239,27 @@ theorem eq_zero_of_inner_right (hK : Dense (K : Set E)) (h : ∀ v : K, ⟪(v :
...
+    (Kᗮ)ᗮ = K := by ext x; simp
+
+theorem orthogonal_eq_orthogonal_iff (K₁ K₂ : ClosedSubmodule 𝕜 E) [K₁.HasOrthogonalProjection]
+    [K₂.HasOrthogonalProjection] : K₁ᗮ = K₂ᗮ ↔ K₁ = K₂ := by
+  constructor
+  · intro h
+    rw [← orthogonal_orthogonal_eq K₁, ← orthogonal_orthogonal_eq K₂]
+    congr
+  · intro h
+    congr
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection/Submodule.lean]:
```suggestion
  ⟨fun h ↦ by simpa using congr($hᗮ), fun h ↦ congr($hᗮ)⟩
```

File: Mathlib/Analysis/InnerProductSpace/Projection/Submodule.lean [hunk 2]
```diff
@@ -239,3 +239,27 @@ theorem eq_zero_of_inner_right (hK : Dense (K : Set E)) (h : ∀ v : K, ⟪(v :
...
+
+/-- The sup of two orthogonal subspaces equals the subspace orthogonal
+to the inf. -/
+theorem sup_orthogonal [CompleteSpace E] (K₁ K₂ : ClosedSubmodule 𝕜 E) :
+    K₁ᗮ ⊔ K₂ᗮ = (K₁ ⊓ K₂)ᗮ := by
+  rw [← orthogonal_orthogonal_eq (K₁ᗮ ⊔ K₂ᗮ), ← inf_orthogonal]
+  simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Projection/Submodule.lean]: Here's a another `simpa` proof, and let's have this `orthogonal_injective` lemma too.
```suggestion
theorem orthogonal_injective [CompleteSpace E] :
    Function.Injective (fun K : ClosedSubmodule 𝕜 E ↦ Kᗮ) :=
  (orthogonal_eq_orthogonal_iff · · |>.mp)

/-- The sup of two orthogonal subspaces equals the subspace orthogonal
to the inf. -/
theorem sup_orthogonal [CompleteSpace E] (K₁ K₂ : ClosedSubmodule 𝕜 E) :
    K₁ᗮ ⊔ K₂ᗮ = (K₁ ⊓ K₂)ᗮ := by
  simpa using congr($(inf_orthogonal K₁ᗮ K₂ᗮ)ᗮ).symm
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
